US09144757B2
To 1,2-phenylenediamine (1.88 g, 17 mmol) in 50% v/v hydrochloric acid (20 ml) was added 2-mercaptoacetic acid (1.3 ml, 1.7 g, 19 mmol). The reaction mixture was heated, under nitrogen, at 60° C. then at 90° C. for 48 hours. Additional 2-mercaptoacetic acid (400 μA, 530 mg, 6 mmol) was added in this time. A sample was analyzed by HPLC. The reaction mixture was cooled and neutralized to pH 5 with 40% v/v NaOH. The resulting solid was washed with water (50 ml) and dried under vacuum to yield (1H-Benzo[d]imidazol-2-yl)-methanethiol 1.95 g, 93% yield, Rt=7.6 min, purity >95% together with disulfide (Rt=8.0 mins) 4%. 1H NMR (d6-DMSO, 400 MHz) 14.3 ppm (bs, 0.5H), 7.46 ppm (m, 2H), 7.13 (m, 2H), 4.17 ppm (s 0.1H). MS (Electrospray+) 164 m/z (M+), 131 m/z (M-SH).

reactant | 1,2-phenylenediamine | 17 mmol, 1.88 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2-mercaptoacetic acid | 19 mmol, 1.3 ml, 1.7 g | SCC(=O)O | C2H4O2S
reactant | NaOH | [OH-].[Na+]
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | (1H-Benzo[d]imidazol-2-yl)-methanethiol | 1.95 g, 93% yield | N1C(=NC2=C1C=CC=C2)CS | C8H8N2S
